US07989457B2
or (S)-3-(4-{1-[6-(4-Trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoylamino)-propionic acid methyl ester is taken into ethanol (2 mL), treated with 5N NaOH (1 mL) for 2 h, concentrated, acidified with 5 N HCl, extracted with ethyl acetate, dried over sodium sulfate. Concentration gives (R) or (S)-3-(4-{1-[6-(4-Trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoylamino)-propionic acid.

reactant | (S)-3-(4-{1-[6-(4-Trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoylamino)-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)O[C@@H](CCCCCC)C=1C=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C30H33F3N2O4
reactant | NaOH | 5N, 1 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | (S)-3-(4-{1-[6-(4-Trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoylamino)-propionic acid | FC(C1=CC=C(C=C1)C1=CC=C(C=N1)[C@H](CCCCCC)OC1=CC=C(C(=O)NCCC(=O)O)C=C1)(F)F | C29H31F3N2O4
